c-v extraction
*setting all non-gate terminals to gnd and then using 
*C = i/(dv/dt) to estimate C for all respective terminals
.include TSMC_180nm.txt

.param LAMBDA=0.18u
.param len=2*LAMBDA
.param width_N=20*LAMBDA
.param SUPPLY=1.8

Vd nd gnd 0
Vs ns gnd 0
Vb nb gnd 0

M1 nd ng ns nb CMOSN W={width_N} L=len
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

Vg ng 0 PWL(0 -1.8 1u 1.8)

.tran 1n 1u

.control
run
*dv/dt = ((1.8) - (-1.8))/1us
let dv_dt = 3.6e6
let Cgg = -I(Vg) / dv_dt
  
let Cgs = I(Vs) / dv_dt
let Cgd = I(Vd) / dv_dt
let Cgb = I(Vb) / dv_dt
  
set color0=white
set color1=black
plot Cgg vs v(g) title 'Total Gate Capacitance Cgg'
plot Cgs Cgd Cgb vs v(g) title 'Parasitic Capacitances'
.endc
.end