series_inverters

.include TSMC_180nm.txt

.param LAMBDA=0.18u
.param len=0.18u
.param width_N=9u
.param width_P=2.5*width_N
.param SUPPLY=1.8
.param C_Load=500f

.subckt cmos_inv in out vdd gnd
Mp out in vdd vdd CMOSP L={len} W={width_P}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
Mn out in gnd gnd CMOSN L={len} W={width_N}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends cmos_inv

Vin a gnd pulse(0 1.8 0ns 100ps 100ps 9.9ns 20ns)
Vdd vdd gnd {SUPPLY}

Xinva a b vdd gnd cmos_inv
Xinvb b c vdd gnd cmos_inv

Cl c gnd {C_Load}

.tran 1p 20n uic

.meas tran tpLH trig v(a) val=0.9 rise=1 targ v(c) val=0.9 rise=1
.meas tran tpHL trig v(a) val=0.9 fall=1 targ v(c) val=0.9 fall=1
.meas tran tpd param='(tpHL+tpLH)/2'

.control
run
set color0=white
set color1=black
plot  v(c)
.endc

.end