pmos_plot
.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u

.param width_P=0.24u
Vdd vdd gnd {SUPPLY}

M1 nd ng vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA}
+ PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA}
+ PD={10*LAMBDA+2*width_P}

Vds nd gnd {SUPPLY}
Vgs ng gnd {SUPPLY}

.dc Vds 0 1.8 0.01 Vgs -1.8 0 0.3


.control
run
let Vds = v(nd) - 1.8
.plot -i(Vds) vs Vds
set hcopypscolor = 1 $ White background
hardcopy ques1_c.eps -Vds#branch
.endc

.end