peak_Ion
.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA = 0.09u
.param L_n={2*LAMBDA}
.param width_N=36u

M1 nd ng gnd gnd CMOSN W={width_N} L={L_n}
+ AS={5*width_N*LAMBDA}
+ PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA}
+ PD={10*LAMBDA+2*width_N}

Vgs ng gnd {SUPPLY}
Vds nd gnd {SUPPLY}
.dc Vds 0 1.8 10m

.control
run
let Id = -i(Vds)
plot Id vs v(nd)
set hcopypscolor=1
hardcopy q5_on_36.eps Id vs v(nd)
let Ion_max = vecmax(Id)
print Ion_max
.endc
.end